US08420690B2
a) 5-(1-methyl-1H-pyrazol-5-yl)-3-thiophenecarboxylic acid
To a solution of 5-bromo-3-thiophenecarboxylic acid (414 mg, 2 mmol) in dioxane/H2O (5:1, 6 mL) was added K2CO3 (828 mg, 6 mmol), tetrakistriphenylphosphine Pd(0) (116 mg, 0.1 mmol) and 5-(5,5-dimethyl-1,3,2-dioxaborinan-2-yl)-1-methyl-1H-pyrazole (428 mg, 2.2 mmol). The reaction mixture was heated to 80° C. in a sealed tube for 12 h and was then partitioned between 6N NaOH and DCM. The pH of the aqueous phase was adjusted to ˜3 with 3M HCl and washed several times with DCM. The combined organic fractions were dried (Na2SO4), concentrated under vacuum and used directly without further purification (˜100 mg, quant.): LC-MS (ES) m/z=209 (M+H)+.

reactant | 5-bromo-3-thiophenecarboxylic acid | 2 mmol, 414 mg | BrC1=CC(=CS1)C(=O)O | C5H3BrO2S
reactant | K2CO3 | 6 mmol, 828 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 5-(5,5-dimethyl-1,3,2-dioxaborinan-2-yl)-1-methyl-1H-pyrazole | 2.2 mmol, 428 mg | CC1(COB(OC1)C1=CC=NN1C)C | C9H15BN2O2
solvent | dioxane H2O | 6 mL | O1CCOCC1.O
catalyst | tetrakistriphenylphosphine Pd(0) | 0.1 mmol, 116 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(1-methyl-1H-pyrazol-5-yl)-3-thiophenecarboxylic acid | CN1N=CC=C1C1=CC(=CS1)C(=O)O | C9H8N2O2S
